Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1][O:2][C:3]#[C:4].[C:5]#[C:6][H:7]>>[C:1][O:2][C:3]#[C:4][C:5]#[C:6][H:7],-5.8172052275300015
[H:1][C:2]#[C:3][C:6]([O:5][O:4])([H:7])[H:8]>>[H:1][C:2]=[C:3]1[O:4][O:5][C:6]1([H:7])[H:8],0.63898470985
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[O:9][C:10][H:11]>>[C:7]([H:8])[O:9][C:10][H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6],4.31949538202
[H:1][O:2][C:3]([H:4])([H:5])[C:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])=[C:6]=[C:7]([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:5],1.65687813768
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[H:10]>>[C:1].[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[H:10],5.56712971393
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],1.99084763738
[H:15].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-1.90814702637
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([O:7][H:8])=[C:9]([H:10])[H:11]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([O:7][H:8])=[C:9][H:10].[H:11],5.15487078869
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:8][H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:10]([H:11])([H:12])[H:13],8.200005248230001
[C:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11](=[O:12])[H:13].[O:1]>>[O:1][C@@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11](=[O:12])[H:13],-4.0196654159300005
[H:7].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])=[C:8]=[C:9]([H:10])[H:11]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],-1.81242136602
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[H:1],5.96860590706
[H:1][C:2]=[C:3]([C:4]#[C:5][H:6])[O:7][O:8][H:9]>>[H:1][C:2]=[C:3]([C:4]#[C:5])[O:7][O:8][H:9].[H:6],5.53551859013
[H:1][O:2][C:3]#[C:5][C:6]([H:7])([H:8])[O:9][H:10].[H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[O:9][H:10],-2.04029374565
[O:1]=[C:2]=[C:3]([H:4])[C@@:8]([C:5]([H:6])[H:7])([H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2][C@:3]1([H:4])[C:5]([H:6])([H:7])[C@@:8]1([H:9])[C:10]([H:11])([H:12])[H:13],-0.481766574389
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12]>>[H:1][C:2][C:3](=[O:4])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12].[H:5],3.5263339852900004
[C:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7][H:8]>>[C:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7].[H:8],3.40330008171
[C:3]([H:4])[H:5].[O:1]=[C:2][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-5.21827916445
[H:1][O:2][C:3]([H:4])([H:5])[C:6]1[C:7][C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:7]#[C:8][C:11]([C:6]([H:9])[H:10])([H:12])[H:13],-0.0224672779795999
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:10][C:11]([H:12])([H:13])[H:14].[H:9],3.67264875401
[H:18].[H:1][C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14])=[C:15]([H:16])[H:17]>>[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-3.70414359562
[C:8]([H:9])[H:10].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]=[C:11]([H:12])[H:13]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([C:8]([H:9])[H:10])=[C:11]([H:12])[H:13],-6.25729379076
[O:1][C@@:2]([H:3])([C:4][O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2]([H:3])(=[O:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]([C:4])[H:6],0.111499936669
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13].[H:5],1.37928240146
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][O:2],5.39614250634
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])([H:13])[H:14]>>[C:6]([H:7])([H:8])=[C:9][O:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])[H:5],2.27177750281
[C:8][C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[H:7]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-3.91514883004
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10]>>[H:1][C:2][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10].[H:3],5.22403872034
[H:1].[O:2]=[C:3]=[C:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-3.10359916022
